t3ll
Vs 1 3 sin 0 76.5 50
DA1 1 2 Diode1
DA2 3 2 Diode1
DA3 0 3 Diode1
DA4 0 1 Diode1
.model Diode1 D
Rs 2 0 8.1k
C1 2 0 11.6uF
RL 2 4 8k
DB1 4 5 Diode1
DB2 5 6 Diode1
DB3 6 7 Diode1
DB4 7 8 Diode1
DB5 8 9 Diode1
DB6 9 10 Diode1
DB7 10 11 Diode1
DB8 11 12 Diode1
DB9 12 13 Diode1
DB10 13 14 Diode1
DB11 14 15 Diode1
DB12 15 16 Diode1
DB13 16 17 Diode1
DB14 17 18 Diode1
DB15 18 19 Diode1
DB16 19 20 Diode1
DB17 20 0 Diode1








.control
*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0










tran 1e-5 0.2 0.01

echo "op_TAB"
print mean(v(4))
print vecmax(v(4))-vecmin(v(4))
print (1/(29.8*(vecmax(v(4))-vecmin(v(4))+abs(mean(v(4)-12))+10e-06)))
echo "op_END"

hardcopy trans1.ps v(4)-12
echo trans1_FIG
hardcopy transv4.ps v(4)
echo transv4_FIG
hardcopy transv2.ps v(2)
echo transv2_FIG 
quit
.endc
.end
